* source NET_DFF_PT
V_V15         N41509 0 1.8Vdc
V_V16         N41589 0 1.8Vdc
V_V17         N41879 0  
+PULSE 0 1.8V 0u 1n 1n 3u 6u
M_M13         N40957 N40799 N40939 N40939 MbreakP  
+ L=.18u  
+ W=.72u         
M_M14         QBAR N41061 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M10         N40799 N40739 0 0 Mbreakn  
+ L=.18u  
+ W=.72u         
M_M18         N40739 N40669 N41879 0 MbreakN  
+ L=.18u  
+ W=.72u         
V_V8         N41253 0 1.8Vdc
M_M16         Q QBAR 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M15         QBAR N41061 N41103 N41103 MbreakP  
+ L=.18u  
+ W=.72u         
M_M19         N40957 N40669 N40739 N41589 MbreakP  
+ L=.18u  
+ W=.72u         
M_M12         N40957 N40799 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
V_V13         N40939 0 1.8Vdc
M_M20         Q N40669 N41061 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M17         Q QBAR N41253 N41253 MbreakP  
+ L=.18u  
+ W=.72u         
C_C5         0 Q  20p  TC=0,0 
V_V14         N41103 0 1.8Vdc
V_V18         N40669 0  
+PULSE 0 1.8V 0u 1n 1n 2u 4u
V_V12         N40781 0 1.8Vdc
M_M11         N40799 N40739 N40781 N40781 Mbreakp  
+ L=.18u  
+ W=.72u         
M_M21         N41061 N40669 N40957 N41509 MbreakP  
+ L=.18u  
+ W=.72u   